US04165428
To a mixture of 3.6 g of 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid and 50 ml of dry tetrahydrofuran was added 0.5 g of 50% sodium hydride and the mixture was stirred for 30 minutes. To this mixture was further added 2.5 g of chloromethylethyl ether and the whole was reacted for 3 hours at room temperature. After the reaction was complete, the solvent was removed by distillation under reduced pressure. The residue thus obtained was neutralized with diluted hydrochloric acid, and then extracted with ethyl ether. The ether layer separated was washed with water and dried. The ether was removed by distillation to yield crystals. Recrystallization of the crystals from petroleum ether yielded 3.0 g of 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid-ethoxymethyl ester as colorless prisms, melting at 60°-61° C. Analysis--Calculated for C22H22ClNO5 : C, 63.48; H, 5.17; N, 3.42. Found: C, 63.53; H, 5.33; N, 3.37.

reactant | 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid | 3.6 g | ClC1=CC=C(C(=O)N2C(=C(C3=CC(=CC=C23)OC)CC(=O)O)C)C=C1 | C19H16ClNO4
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | chloromethylethyl ether | 2.5 g | ClCOCC | C3H7ClO
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(p-chlorobenzoyl)-2-methyl-5-methoxy-3-indolylacetic acid-ethoxymethyl ester | 3.0 g | C(C)OCOC(CC1=C(N(C2=CC=C(C=C12)OC)C(C1=CC=C(C=C1)Cl)=O)C)=O | C22H22ClNO5
